US09085555B2
A. (5-Chloro-3-formyl-indol-1-yl)-acetic acid tert-butyl ester
To a suspension of 5-chloro-1H-indole-3-carbaldehyde [827-01-0] (500 mg, 2.78 mmol) and K2CO3 (885 mg, 6.40 mmol) in (14 mL) was added tert-butyl 2-bromoacetate (0.576 mL, 3.90 mmol) dropwise at RT. The resulting mixture was then heated to reflux for 18 h. After cooling to RT, the mixture was diluted with EtOAc and water. The organic layer was separated, subsequently washed with water (1×) and brine (1×), dried (Phase separator) and concentrated in vacuo to give the crude title compound. MS (LC/MS): 294 [M+H]+; tR (HPLC conditions b): 5.45 min. The product was used in the next reaction step without further purification.

reactant | 5-chloro-1H-indole-3-carbaldehyde | 2.78 mmol, 500 mg | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | K2CO3 | 6.40 mmol, 885 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoacetate | 3.90 mmol, 0.576 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (5-Chloro-3-formyl-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)Cl)C=O)=O | C15H16ClNO3
